US05366987
(g) 3-Dodecyl-N-(2,4,6-trimethoxyphenyl)-5-isoxazole acetamide
To a stirred, room temperature solution of 3-dodecyl-5-isoxazole acetic acid (0.64 g, 0.0022 mol) in dry tetrahydrofuran (20 mL) under nitrogen was added in one portion, 1,1-carbonyldiimidazole (0.38 g, 0.0024 mol), and the mixture was stirred for 2 hours. To this solution was added 2,4,6-trimethoxyaniline hydrochloride (0.48 g, 0.0022 mol) and triethylamine (0.33 mL, 0.0024 mol) in THF (30 mL). The mixture was stirred for 2 days and allowed to cool. The solution was rotoevaporated and the residue dissolved in dichloromethane. The solid was filtered through silica gel (77 g, 70-230 mesh) using petroleum ether-acetone (4:1, 35×75 mL) and the filtrate rotoevaporated to an oil. The oil was dried in vacuo. The oil crystallized to give a pale yellow waxy solid; yield 0.96 g (96%); mp 107°-109° C.

reactant | 3-dodecyl-5-isoxazole acetic acid | 0.0022 mol, 0.64 g | C(CCCCCCCCCCC)C1=NOC(=C1)CC(=O)O | C17H29NO3
reactant | 2,4,6-trimethoxyaniline hydrochloride | 0.0022 mol, 0.48 g | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | triethylamine | 0.0024 mol, 0.33 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Dodecyl-N-(2,4,6-trimethoxyphenyl)-5-isoxazole acetamide | C(CCCCCCCCCCC)C1=NOC(=C1)CC(=O)NC1=C(C=C(C=C1OC)OC)OC | C26H40N2O5
